US07838688B2
1) Synthesis of (2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)methyl acetate (EDOT-MeOAc)
In a 50 mL Schlenk tube 1.00 g of to 2-(bromomethyl)-2,3-dihydrothieno[3,4-b][1,4]dioxine was combined with 0.5 g (0.0051 mol) potassium acetate and 25 mL DMSO. The tube was sealed and stirred for 1 h at 100 C. At this time TLC indicated complete consumption of starting material. The reaction was poured into water and extracted with ether. After removing the ether under reduced pressure column chromatography was performed using 90% methylene chloride in hexane to isolate a light yellow oil in 90% yield. The structure and purity were confirmed by 1H/13C NMR and GC-MS.

reactant | 2-(bromomethyl)-2,3-dihydrothieno[3,4-b][1,4]dioxine | BrCC1COC=2C(O1)=CSC2 | C7H7BrO2S
reactant | potassium acetate | 0.0051 mol, 0.5 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | (2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)methyl acetate | 90% yield | C(C)(=O)OCC1COC=2C(O1)=CSC2 | C9H10O4S
